US07115611B2
B] [2-Methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-carbamic acid Tert-butyl Ester
4.30 g (15.3 mmol) of 2-methyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid (prepared from 2-methyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid methyl ester (example 1L]) in analogy to the procedure described in example 53B]) was dissolved in 85 ml of 2-methyl-2-propanol and 3.18 ml=2.32 g (22.9 mmol) of triethylamine was added. After 5 min., 4.97 ml=6.64 g (22.9 mmol) of diphenylphosphoryl azide (95%) was added. The reaction mixture was then stirred at reflux (oil bath 100° C.). After 10 min., 0.53 g (3.1 mmol) of anhydrous 4-toluene sulfonic acid was added and stirring continued for 1 hour at reflux. The solvent was then completely removed by evaporation at high vacuum; the residue was dissolved in Et2O and washed with H2O, 1N HCl, and NaHCO3 solution. The combined organic phases were dried over anhydrous magnesium sulfate and evaporated. The crude product was purified by crystallization (EtOAc, n-heptane) to give 4.05 g of the title compound as colorless solid.

reactant | 2-methyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid | 15.3 mmol, 4.30 g | CC1=C(C(=O)O)C=CC(=N1)C1=CC=C(C=C1)C(F)(F)F | C14H10F3NO2
reactant | 2-methyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C15H12F3NO2
reactant | triethylamine | 22.9 mmol, 2.32 g | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 22.9 mmol, 6.64 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 4-toluene sulfonic acid | 3.1 mmol, 0.53 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | 2-methyl-2-propanol | 85 ml | CC(C)(C)O | C4H10O
product | [2-Methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-carbamic acid Tert-butyl Ester | 4.05 g | C(C)(C)(C)OC(NC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C18H19F3N2O2
